US07138533B2
9-[3-(1-Acetyl-4-piperidinyl)propanoyl]-2,3,6,7-tetrahydro-1H,5H-pyrido[3,2,1-ij]quinolin-5-one
Using 3-(1-acetyl-4-piperidinyl)propanoic acid (13.8 g) and 2,3,6,7-tetrahydro-1H,5H-pyrido[3,2,1-ij]quinolin-5-one (10.8 g) according to the same method as that of Reference Example 172, the title compound was obtained as colorless crystals (15.5 g) having a melting point of 130 to 131° C.

reactant | 3-(1-acetyl-4-piperidinyl)propanoic acid | 13.8 g | C(C)(=O)N1CCC(CC1)CCC(=O)O | C10H17NO3
reactant | 2,3,6,7-tetrahydro-1H,5H-pyrido[3,2,1-ij]quinolin-5-one | 10.8 g | C1CCN2C3=C(C=CC=C13)CCC2=O | C12H13NO
product | 9-[3-(1-Acetyl-4-piperidinyl)propanoyl]-2,3,6,7-tetrahydro-1H,5H-pyrido[3,2,1-ij]quinolin-5-one | C(C)(=O)N1CCC(CC1)CCC(=O)C=1C=C2CCCN3C2=C(C1)CCC3=O | C22H28N2O3
